US05571821
A. 2,5-Dimethylfuran-3-sulfonyl chloride
DMF (2.2 ml, 28 mmol) and sulfuryl chloride (1.9 ml, 24 mmol) were stirred at 0° C. for 30 minutes and then the 2,5-dimethylfuran (1.5 ml, 14 mmol) was slowly added. The reaction mixture was heated to 60° C. for 30 minutes, then cooled to ambient temperature and poured into ice water (200 ml). The aqueous layer was extracted with EtOAc (100 ml) and then the organic layer was dried (MgSO4) filtered and concentrated to collect 0.69 g of a brown liquid. Flash chromatography (5% EtOAc/hexane) provided 0.607 g (22% yield) of a yellow liquid.

reactant | DMF | 28 mmol, 2.2 ml | CN(C)C=O | C3H7NO
reactant | sulfuryl chloride | 24 mmol, 1.9 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2,5-dimethylfuran | 14 mmol, 1.5 ml | CC=1OC(=CC1)C | C6H8O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 2,5-Dimethylfuran-3-sulfonyl chloride | 0.607 g, 22% yield | CC=1OC(=CC1S(=O)(=O)Cl)C | C6H7ClO3S
